US07531577B2
Step 2 N-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide
To a solution of 0.46 gram (2.85 mmole) 6-amino-3,4-dihydro-2H-naphthalen-1-one in 25 mL pyridine was added 0.605 grams (3.42 mmoles) benzenesulfonyl chloride. The reaction mixture was stirred at 23° C. for 24 hours. The mixture was diluted with 100 mL water and extracted with 200 mL ethyl acetate. The organic phase was dried (magnesium sulfate) and concentrated under reduced pressure. The residue was subjected to low pressure column chromatography over silica gel 230-400 mesh eluting with 50% ethyl acetate in hexane. The title compound was obtained as a solid, 0.48 gram (56%), m.p. 164-165° C., M−H=300.

reactant | 6-amino-3,4-dihydro-2H-naphthalen-1-one | 2.85 mmole, 0.46 gram | NC=1C=C2CCCC(C2=CC1)=O | C10H11NO
reactant | benzenesulfonyl chloride | 3.42 mmoles, 0.605 grams | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
solvent | water | 100 mL | O | H2O
product | N-(5-oxo-5,6,7,8-tetrahydro-naphthalen-2-yl)-benzenesulfonamide | O=C1C=2C=CC(=CC2CCC1)NS(=O)(=O)C1=CC=CC=C1 | C16H15NO3S
